US06288091B1
Iron powder (6.51 g, 116.7 mmol) and 1N aqueous HCl (2.3 mL) were added to a solution of N,N-dimethyl-4-(4-nitrophenyl)-2-thiazolamine of section a) (2.91 g, 11.7 mmol) in EtOH (39 mL) at room temperature. The mixture was stirred and heated at reflux for 3 h. The hot reaction mixture was filtered through diatomaceous earth. The solid on the filter was washed with hot EtOH (200 mL). The filtrate was diluted with EtOAc and Et2O (1:1, 100 mL) and then concentrated to about 25% of its original volume. This solution was diluted with EtOAc (150 mL). The mixture was washed successively with saturated aqueous NaHCO3, H2O and brine, then dried (MgSO4) and concentrated under reduced pressure to give N,N-dimethyl-4-(4-aminophenyl)-2-thiazolamine (2.24 g, 87% yield) as a light brown oil: 1H NMR (400 MHz, DMSO-d6) δ7.53 (d, J=8.4 Hz, 2H), 6.74 (s, 1H), 6.56 (d, J=8.4 Hz, 2H), 5.16 (s, 2H), 3.05 (s, 6H); MS (FAB) m/z 220 (MH)+. This product was used without further purification in the next section.

reactant | HCl | 1N, 2.3 mL | Cl | ClH
reactant | N,N-dimethyl-4-(4-nitrophenyl)-2-thiazolamine | CN(C=1SC=C(N1)C1=CC=C(C=C1)[N+](=O)[O-])C | C11H11N3O2S
solvent | EtOH | 39 mL | CCO | C2H6O
catalyst | Iron | 116.7 mmol, 6.51 g | [Fe] | Fe
product | N,N-dimethyl-4-(4-aminophenyl)-2-thiazolamine | 2.24 g, 87% yield | CN(C=1SC=C(N1)C1=CC=C(C=C1)N)C | C11H13N3S
